US06229017B1
272 g of toluene, 111 g of ethyl N,N-dimethylaminoacrylate and 85 g of triethylamine were initially charged, and 156 g of 2,4,5-trifluorobenzoyl chloride were added dropwise at from 50 to 55° C. over a period of 60 minutes. The mixture was subsequently stirred at 55° C. for 2 hours and then cooled to room temperature. 56 g of acetic acid were then added, and 48.6 g of cyclopropylamine were added dropwise at from 20 to 30° C. 250 ml of water were then added to the reaction mixture which was stirred for 15 minutes, and the organic phase was separated off. The organic phase was metered into a mixture of 65 g of potassium carbonate and 240 g of toluene, at 110° C. The water of reaction that was liberated was separated off via a water separator. After all the water had been separated off, the mixture was cooled to 30° C., and 500 ml of water were added. At a pressure of from 120 to 180 mbar, the toluene was distilled off. The mixture was subsequently cooled to 20° C. and the product was filtered off with suction. The isolated solid was washed three times with 100 ml of water each time and three times with 100 ml of isopropanol each time. Drying under reduced pressure at 50° C. gave 206 g of ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate. This corresponds to a yield of 88% of theory.

reactant | toluene | 272 g | C1(=CC=CC=C1)C | C7H8
reactant | ethyl N,N-dimethylaminoacrylate | 111 g | CN(C)C(C(=O)OCC)=C | C7H13NO2
reactant | 2,4,5-trifluorobenzoyl chloride | 156 g | FC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2ClF3O
reactant | cyclopropylamine | 48.6 g | C1(CC1)N | C3H7N
solvent | water | 250 ml | O | H2O
solvent | acetic acid | 56 g | C(C)(=O)O | C2H4O2
solvent | triethylamine | 85 g | C(C)N(CC)CC | C6H15N
product | ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinoline-carboxylate | 206 g, yield of 88% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C15H13F2NO3
